### PR TITLE
refactor: redefine `⋆ = {fun _ ↦ {0}}`

### PR DESCRIPTION
**Pull request by vihdzp**
Continuing the work from #212.

### CODE REVIEW

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 1]
```diff
@@ -426,6 +426,16 @@ theorem moves_neg (p : Player) (x : LGame) : (-x).moves p = -x.moves (-p) := by
 theorem neg_ofSets (s t : Set LGame.{u}) [Small.{u} s] [Small.{u} t] : -!{s | t} = !{-t | -s} := by
   ext p; cases p <;> simp
 
+theorem neg_ofSets' (st : Player → Set LGame) [Small (st left)] [Small (st right)] :
+    -!{st} = !{fun p ↦ -st (-p)} := by
+  rw [ofSets_eq_ofSets_cases, ofSets_eq_ofSets_cases fun _ ↦ -_, neg_ofSets]
+  dsimp
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/Basic.lean]: (Is `dsimp` more explicit than `rfl` here?)

File: CombinatorialGames/Game/Special.lean [hunk 2]
```diff
@@ -177,7 +180,7 @@ theorem neg_switch (x : IGame) : -±x = ±x := by
 
 @[simp]
 theorem switch_zero : ±0 = ⋆ := by
-  simp_rw [switch, star, neg_zero]
+  ext p; cases p <;> simp [star, switch]
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Special.lean]:
```suggestion
  ext p; cases p <;> simp
```

File: CombinatorialGames/Game/Loopy/Basic.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Loopy/Basic.lean]: Maybe? It does feel weird to use `dsimp` as a finishing tactic so I'll just replace that with `rfl`.
